US04643990
Starting from triacontanoic acid (452 mg) and dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)-L-glutamate (526 mg), dibenzyl N-(N-triacontanoyl-L-valyl)-L-glutamate (430 mg) was obtained as powder according to a similar manner to that of Example 28.

reactant | triacontanoic acid | 452 mg | C(CCCCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C30H60O2
reactant | dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)-L-glutamate | 526 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C29H38N2O7
product | dibenzyl N-(N-triacontanoyl-L-valyl)-L-glutamate | 430 mg | C(CCCCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C54H88N2O6
